US04792208
4-Dioctadecylamino-4'-methylsulfonylstilbene
To a solution of 420 mG of 60% sodium hydride dispersion (0.011 mol), 6.26 g (0.01 mol) of N,N-dioctadecylaminobenzaldehyde and 40 mL of dry, freshly distilled 1,2-dimethoxyethane (DME) under nitrogen, at room temperature, with vigorous stirring, was added a solution of 3.06 g (0.01 mol) of diethyl 4-methylsulfonylbenzylphosphonate in 10 mL 1,2-dimethoxyethane. The mixture immediately turned bright yellow. The reaction mixture was heated at reflux for 2 hours. After cooling, the bright yellow solution was poured over 100 g of crushed ice under a nitrogen blanket. The bright yellow solid was collected by filtration, washed with cold water, and air dried. Recrystallization from ethanol yielded 3.95 g (50.7%) of bright yellow powder mp 75°-76° C.

reactant | sodium hydride | [H-].[Na+]
reactant | N,N-dioctadecylaminobenzaldehyde | 0.01 mol, 6.26 g | C(CCCCCCCCCCCCCCCCC)N(CCCCCCCCCCCCCCCCCC)C1=C(C=O)C=CC=C1 | C43H79NO
reactant | diethyl 4-methylsulfonylbenzylphosphonate | 0.01 mol, 3.06 g | CS(=O)(=O)C1=CC=C(CP(OCC)(OCC)=O)C=C1 | C12H19O5PS
solvent | 1,2-dimethoxyethane | 10 mL | COCCOC | C4H10O2
product | 4-Dioctadecylamino-4'-methylsulfonylstilbene | 3.95 g, 50.7% | C(CCCCCCCCCCCCCCCCC)N(C1=CC=C(C=C1)C=CC1=CC=C(C=C1)S(=O)(=O)C)CCCCCCCCCCCCCCCCCC | C51H87NO2S
